US06977264B2
Step (b) N-((1R)-1-[(4-Chlorophenyl)methyl]-2-oxo-2-{4-[2-(2-oxo(4-imidazolinyl))phenyl]-piperidyl}ethyl)(tert-butoxy) carboxamide
The title compound was prepared according to the procedure described in Example 17 (Step b) using tert-butyl 4-(2-{[(2,2-dimethoxyethyl)amino]carbonylamino}phenyl)piperidine-carboxylate (Step a) (0.742 g, 1.82 mmol) and a 50% aqueous TFA soln (20 mL) followed by Boc-p-Cl-D-PheOH (Advanced ChemTech) (0.545 g, 1.82 mmol), EDC (Advanced ChemTech) (0.523 g, 2.73 mmol), HOBT (Novabiochem) (0.246 g, 1.82 mmol) and TFA (Aldrich) (0.25 mL, 1.82 mmol) in CH2Cl2 (10 mL). Purification by silica gel chromatography (100% EtOAc then 1:9 MeOH:EtOAc) provided the title compound as a white solid (0.675 g). MS (ESI, pos. ion) m/z: 525 (M+1). Calc'd for C28H33ClN4O4: 524.22.

reactant | tert-butyl 4-(2-{[(2,2-dimethoxyethyl)amino]carbonylamino}phenyl)piperidine-carboxylate | COC(CNC(=O)NC1=C(C=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C21H33N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc-p-Cl-D-PheOH | 1.82 mmol, 0.545 g | N([C@H](CC1=CC=C(C=C1)Cl)C(=O)O)C(=O)OC(C)(C)C | C14H18ClNO4
reactant | EDC | 2.73 mmol, 0.523 g
reactant | HOBT | 1.82 mmol, 0.246 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | TFA | 1.82 mmol, 0.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-((1R)-1-[(4-Chlorophenyl)methyl]-2-oxo-2-{4-[2-(2-oxo(4-imidazolinyl))phenyl]-piperidyl}ethyl)(tert-butoxy) carboxamide | 0.675 g | ClC1=CC=C(C=C1)C[C@H](C(N1CCC(CC1)C1=C(C=CC=C1)N1C(NC=C1)=O)=O)NC(=O)OC(C)(C)C | C28H33ClN4O4
